US07101892B2
4-Benzenesulphonyl-3-methylbutan-1-ol
A solution of methanesulphonylbenzene (2.17 g, 13.9 mmol) in tetrahydrofuran (10 ml) was cooled to −78° C. and treated with butyllithium (1.6M in hexanes, 8.7 ml, 13.9 mmol) followed by 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1.68 ml, 13.9 mmol). The reaction was stirred at −78° C. for 15 minutes then methyl crotonate (7.36 ml, 69.5 mmol) added. The reaction was allowed to warm to room temperature and quenched with water. The mixture was extracted with ethyl acetate and the combined organic layers dried (MgSO4)and concentrated in vacuo. The residue was dissolved in dichloromethane (10 ml) and cooled to −5° C. A solution of diisobutylaluminium hydride in dichloromethane (1M, 27.8 ml, 27.8 mmol) was added and the reaction allowed to warm to room temperature. The mixture was diluted with aqueous ammonium carbonate solution and extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo. A portion of the residue was purified by preparative thin layer chromatography, eluting with 5% methanol/dichloromethane, to give the title compound.

reactant | methanesulphonylbenzene | 13.9 mmol, 2.17 g | CS(=O)(=O)C1=CC=CC=C1 | C7H8O2S
reactant | butyllithium | 13.9 mmol, 1.6M, 8.7 ml | C(CCC)[Li]
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 13.9 mmol, 1.68 ml | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | methyl crotonate | 69.5 mmol, 7.36 ml | C(\C=C\C)(=O)OC | C5H8O2
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | dichloromethane | 27.8 mmol, 1M, 27.8 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
product | 4-Benzenesulphonyl-3-methylbutan-1-ol | C1(=CC=CC=C1)S(=O)(=O)CC(CCO)C | C11H16O3S
